US07902197B2
1-(2-ethoxy-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one
A mixture of 7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-1,5-dihydro-pyrrolo[2,3-b]pyrazin-2-one (0.080 g, 0.23 mmol), iodoethane (0.018 mL, 0.24 mmol) and potassium carbonate (0.038 g, 0.28 mmol) in 3 mL of acetone was stirred at reflux overnight, then concentrated. The residue was partitioned between 30 mL of ethyl acetate and 30 mL of water. The organic layer was dried over MgSO4, filtered and concentrated to 0.075 g (86%) of crude 1-[2-ethoxy-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one as a yellow oil that was used without further purification.

reactant | 7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-1,5-dihydro-pyrrolo[2,3-b]pyrazin-2-one | 0.23 mmol, 0.080 g | CC(C(=O)C1=CN(C=2N=CC(NC21)=O)COCC[Si](C)(C)C)(C)C | C17H27N3O3Si
reactant | iodoethane | 0.24 mmol, 0.018 mL | ICC | C2H5I
reactant | potassium carbonate | 0.28 mmol, 0.038 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 1-(2-ethoxy-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | C(C)OC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C13H17N3O2
